US07368578B2
A mixture of ethyl 1-benzyl-3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-(methoxymethoxy)benzyl)oxy]-1H-pyrazole-4-carboxylate (8.65 g), 1N hydrochloric acid (50 mL), tetrahydrofuran (100 mL) and ethanol (100 mL) was stirred at 50° C. for 5 hrs. The reaction mixture was diluted with ethyl acetate, and washed successively with water and saturated brine. The organic layer was dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography and eluted with ethyl acetate-hexane (2:3, v/v) to give ethyl 1-benzyl-3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-hydroxybenzyl)oxy]-1H-pyrazole-4-carboxylate as colorless crystals (5.37 g, yield 67%). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 134-135° C.

reactant | ethyl 1-benzyl-3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-(methoxymethoxy)benzyl)oxy]-1H-pyrazole-4-carboxylate | 8.65 g | C(C1=CC=CC=C1)N1N=C(C(=C1)C(=O)OCC)OCC1=CC(=C(C=C1)OCC=1N=C(OC1C)C=1OC=CC1)OCOC | C31H31N3O8
reactant | hydrochloric acid | 1N, 50 mL | Cl | ClH
reactant | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
reactant | ethanol | 100 mL | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 1-benzyl-3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-hydroxybenzyl)oxy]-1H-pyrazole-4-carboxylate | 5.37 g, yield 67% | C(C1=CC=CC=C1)N1N=C(C(=C1)C(=O)OCC)OCC1=CC(=C(C=C1)OCC=1N=C(OC1C)C=1OC=CC1)O | C29H27N3O7
